US04420424
(B) H-Val-Tyr(But)-OMe.HCl
Pd-on-charcoal catalyst is added to a solution of 65 g (0.134 mole) of Z-Val-Tyr(But)-OMe in 300 ml of methanol and hydrogen is passed through the solution at pH 4.5 (autotitrator) while stirring and adding approx. 2 N methanolic hydrochloric acid, until no further methanolic hydrochloric acid is taken up. The catalyst is then filtered off and the filtrate is concentrated. The residue is triturated with ether, in the course of which the substance dissolves and, after standing overnight at 4°, precipitates out in crystalline form. The crystals are filtered off and dried over P2O5. The substance is hygroscopic. Yield 44.1 g (85%), melting point 88°-102°, [α]D21 =+31.0° (c=1, methanol).

reactant | Z-Val-Tyr(But)-OMe | 0.134 mole, 65 g | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C27H36N2O6
reactant | hydrochloric acid | approx. 2 N | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
product | H-Val-Tyr(But)-OMe.HCl | N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl | InChI=1S/C19H30N2O4.ClH/c1-12(2)16(20)17(22)21-15(18(23)24-6)11-13-7-9-14(10-8-13)25-19(3,4)5;/h7-10,12,15-16H,11,20H2,1-6H3,(H,21,22);1H/t15-,16-;/m0./s1
